US08859534B2
N-((1-Methyl-1H-imidazol-4-yl)methyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
The compound was prepared according to the procedure disclosed in Example 1 starting from lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate (70 mg, 0.18 mmol) and (1-methyl-1H-imidazol-4-yl)methylamine (24 mg, 0.22 mmol). Yield: 42 mg (48%).

reactant | lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.18 mmol, 70 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)[O-].[Li+]
reactant | (1-methyl-1H-imidazol-4-yl)methylamine | 0.22 mmol, 24 mg | CN1C=NC(=C1)CN | C5H9N3
product | N-((1-Methyl-1H-imidazol-4-yl)methyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | CN1C=NC(=C1)CNC(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CCC2=NC=CC=C2 | C25H28N6O2
